US07919488B2
4-[1-[1-(diphenylmethyl)azetidin-3-yl]-5-(4-fluorobenzyl)-1H-pyrazol-3-yl]pyridine
To a solution of 4-[5-(4-fluorobenzyl)-1H-pyrazol-3-yl]pyridine (3.7 g, 14.6 mmol) in DMF (40 mL) was added NaH (0.584 g, 14.6 mmol) and the solution was stirred for 10 minutes under nitrogen. 3-Iodo-N-benzhydryl-azetidine (5.61 g, 16.1 mmol) was then added and the reaction mixture was heated to 110° C. for 2 hours under nitrogen. The solvent was removed in-vacuo and the residue was diluted with H2O and extracted with EtOAc. The organic layer was washed with H2O, brine, dried over MgSO4, filtered and stripped to yield a crude mix of regioisomers. The residue was purified by flash chromatography (5:95 MeOH/CH2Cl2) to yield a clean mix of regioisomers that were separated by SF chromatography to yield the title compound as a lyophilized solid (2.35 g, 34%. 1H NMR (400 MHz, CHLOROFORM-D) δ ppm 8.62 (d, 2 H), 7.69 (d, 2 H), 7.42 (d, 4 H), 7.24-7.31 (m, 4 H), 7.14-7.24 (m, 2 H), 7.02-7.09 (m, 2 H), 6.97 (s, 2 H), 6.36-6.39 (m, 1 H), 4.74-4.87 (m, 1 H), 4.57 (s, 1 H), 3.94 (s, 2 H), 3.51-3.62 (m, 4 H); m/z (APCI+) for C32H27N4F 475.3 (M+H)+.

reactant | 4-[5-(4-fluorobenzyl)-1H-pyrazol-3-yl]pyridine | 14.6 mmol, 3.7 g | FC1=CC=C(CC2=CC(=NN2)C2=CC=NC=C2)C=C1 | C15H12FN3
reactant | NaH | 14.6 mmol, 0.584 g | [H-].[Na+]
reactant | 3-Iodo-N-benzhydryl-azetidine | 16.1 mmol, 5.61 g | IC1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C16H16IN
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 4-[1-[1-(diphenylmethyl)azetidin-3-yl]-5-(4-fluorobenzyl)-1H-pyrazol-3-yl]pyridine | C1(=CC=CC=C1)C(N1CC(C1)N1N=C(C=C1CC1=CC=C(C=C1)F)C1=CC=NC=C1)C1=CC=CC=C1 | C31H27FN4
